US04876354
36 ml (54 mmol) of a 1.5 molar solution of n-butyllithium in hexane were added dropwise to a solution of 5.37 g (26 mmol) of 1-(3-chlorophenyl)-1-(1-imidazolyl)-ethane and 3.14 g (27 mmol) of TMEDA in 60 ml of absolute THF at -70° C. The mixture was stirred for 20 minutes at -70° C., after which a solution of 3.91 g of adamantone in 20 ml of absolute THF was added dropwise at -70° C. Stirring was continued for 1 hour at -70° C. and for 1.5 hours at -70° C. to room temperature, 100 ml of water were added at about 10° C., while cooling, and the mixture was extracted with CH2Cl2. The combined CH2Cl2 extracts were dried and filtered and then evaporated down in vacuo. The residue (10.1 g) was chromatographed with elution with CH2Cl2 /C2H5OH mixtures having an increasing C2H5O content (up to a maximum of 2% by volume), over a silica gel S/CH2Cl2 column (diameter 2.0 cm, height 41 cm). After elution of 3.3 g of unchanged adamantone (=84% of the amount used), a fraction (about 1.0 g) enriched with the desired compound was obtained during elution with CH2Cl2. This fraction was chromatographed again over the silica gel S column (diameter 2.0 cm, height 34 cm) using 4:1 petroleum ether/CH2Cl2, elution being carried out with petroleum ether/CH2Cl2 mixtures having an increasing CH2Cl2 content and then with CH2Cl2. After elution of preliminary zones (content 0.25 g), fractions shown to be pure by linear chromatography were combined and evaporated down in vacuo. 0.58 g (=6.3% yield) of pure 1-(3-chlorophenyl)-1-(2-hydroxy-2-adamantyl)-1-(1-imidazolyl)-ethane of melting point 121° C. (from CH3CN) was obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-(3-chlorophenyl)-1-(1-imidazolyl)-ethane | 26 mmol, 5.37 g | ClC=1C=C(C=CC1)C(C)N1C=NC=C1 | C11H11ClN2
reactant | TMEDA | 27 mmol, 3.14 g | CN(C)CCN(C)C | C6H16N2
reactant | water | 100 ml | O | H2O
reactant | hexane | CCCCCC | C6H14
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | CH3CN | CC#N | C2H3N
product | 1-(3-chlorophenyl)-1-(2-hydroxy-2-adamantyl)-1-(1-imidazolyl)-ethane | 0.58 g, 6.3% yield | ClC=1C=C(C=CC1)C(C)(N1C=NC=C1)C1(C2CC3CC(CC1C3)C2)O | C21H25ClN2O
